US09062048B2
Step A: cyclopropyl(1,4-dioxaspiro[4.5]decan-8-yl)methanol
To a solution of 1,4-dioxaspiro[4.5]decane-8-carbaldehyde (1.135 g, 6.668 mmol, prepared as described in Pearson, et al. in J. Org. Chem. 1997, 62(16), 5284-5292) cooled to −78° C. under argon was added a cyclopropylmagnesium bromide (40 mL, 20 mmol, 0.5 M in THF) dropwise. After the complete addition, the reaction mixture was allowed to reach room temperature overnight. It was then re-cooled to −78° C. and quenched with saturated NaHCO3 solution and warmed to room temperature. After extraction with ether, the organic layer was concentrated in vacuo and the residue purified by flash chromatography (silica gel, 0-100% ethyl acetate/heptane) to afford the product.

reactant | 1,4-dioxaspiro[4.5]decane-8-carbaldehyde | 6.668 mmol, 1.135 g | O1CCOC12CCC(CC2)C=O | C9H14O3
reactant | cyclopropylmagnesium bromide | 20 mmol, 0.5 M, 40 mL | C1(CC1)[Mg]Br
product | cyclopropyl(1,4-dioxaspiro[4.5]decan-8-yl)methanol | C1(CC1)C(O)C1CCC2(OCCO2)CC1 | C12H20O3
